US07109332B2
2-Amino-4-(benzyl-tert-butoxycarbonyl-amino)-benzoic acid methyl ester
To a suspension of CsCO3 (4.9 g, 15 mmoles) and (4-tert-Butoxycarbonylamino-2-nitro-benzoic acid methyl ester (2.96 g, 10 mmoles) in anhydrous DMF (100 mL) was added benzyl bromide (2.57 g, 15 mmoles) and the resulting mixture was stirred at room temperature for 12 hrs. The reaction mixture was filtered, concentrated, diluted with ethyl acetate, and washed with 5% citric acid, saturated NaHCO3 solution and water. The organic phase was hydrogenated over 10% Pd/C in EtOAc. After 12 hr, the mixture was filtered through a celite pad, and the filtrate was concentrated in vacuo to give a crude oil which was purified by column chromatography to furnish the desired product as an off-white solid (2.05 g, 57% yield). ES+ MS showed 357 m/z, the correct mass for the product. 1H NMR (400 MHz, DMSO-d6) showed β=1.34 (s, 9H), 3.71 (s, 3H), 4.74 (s, 2H), 6.39 (d, J=9 Hz, 1H), 6.62 (s, 1+2H), 7.19 (d, J=7 Hz, 2H), 7.24 (d, J=7 Hz, 1H), 7.32 (dd, J1=J2=7 Hz, 2H),.

reactant | 4-tert-Butoxycarbonylamino-2-nitro-benzoic acid methyl ester | 10 mmoles, 2.96 g | COC(C1=C(C=C(C=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-])=O | C13H16N2O6
reactant | benzyl bromide | 15 mmoles, 2.57 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-Amino-4-(benzyl-tert-butoxycarbonyl-amino)-benzoic acid methyl ester | 2.05 g, 57% yield | COC(C1=C(C=C(C=C1)N(C(=O)OC(C)(C)C)CC1=CC=CC=C1)N)=O | C20H24N2O4
